US07501413B2
A suspension of (1SR,2RS)-2-(5-chloro-pyridin-2-ylcarbamoyl)-1-methyl-cyclopropane-carboxylic acid (176 mg) in MeOH (5 ml) was cooled to 0° C. and treated with thionyl chloride (15 drops). After stirring for 2 hrs at 0° C. additional thionyl chloride (10 drops) was added. The clear solution was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2−>CH2Cl2/MeOH 9:1) to give (1SR,2RS)-2-(5-chloro-pyridin-2-ylcarbamoyl)-1-methyl-cyclopropanecarboxylic acid methyl ester (163 mg) as colorless amorphous solid. MS 269.5 ([M+H]+).

reactant | (1SR,2RS)-2-(5-chloro-pyridin-2-ylcarbamoyl)-1-methyl-cyclopropane-carboxylic acid | 176 mg | ClC=1C=CC(=NC1)NC(=O)C1C(C1)(C(=O)O)C | C11H11ClN2O3
reactant | MeOH | 5 ml | CO | CH4O
catalyst | thionyl chloride | 15 drops | S(=O)(Cl)Cl | Cl2OS
catalyst | thionyl chloride | 10 drops | S(=O)(Cl)Cl | Cl2OS
product | (1SR,2RS)-2-(5-chloro-pyridin-2-ylcarbamoyl)-1-methyl-cyclopropanecarboxylic acid methyl ester | 163 mg | COC(=O)C1(C(C1)C(NC1=NC=C(C=C1)Cl)=O)C | C12H13ClN2O3
